US08227468B2
tert-Butyl 4-[(2S,3S)-3-[(4-fluorobenzoyl)amino]-2-hydroxy-indan-5-yl]piperazine-1-carboxylate
Cool a solution of tert-butyl 4-[(2S,3S)-3-[(4-fluorobenzoyl)amino]-2-hydroxy-indan-5-yl]-3-oxo-piperazine-1-carboxylate (8.85 g, 18.9 mmol) in anhydrous tetrahydrofuran (40 mL) in an ice bath for 30 min. and add borane-dimethyl sulfide complex (2 M, 37.7 mL, 75.40 mmol) under nitrogen. Warm the mixture to room temperature and stir for 1.5 hr. Add a second portion of borane-dimethyl sulfide complex (2 M, 9.42 mL, 18.9 mmol) at room temperature and stir for one hour. Cool in an ice bath for 10 min and carefully add water dropwise, followed by addition of saturated sodium bicarbonate solution (50 mL). Dilute the resulting suspension with ethyl acetate (150 mL). Wash the organic portion with brine, dry over sodium sulfate, and concentrate in vacuo. Purify the crude product by flash chromatography (120 g silica, 40 to 50% ethyl acetate/hexanes) to obtain the title compound (6.8 g, 79%). LC-ES/MS m/z 456 [M+H]+.

reactant | tert-butyl 4-[(2S,3S)-3-[(4-fluorobenzoyl)amino]-2-hydroxy-indan-5-yl]-3-oxo-piperazine-1-carboxylate | 18.9 mmol, 8.85 g | FC1=CC=C(C(=O)N[C@@H]2[C@H](CC3=CC=C(C=C23)N2C(CN(CC2)C(=O)OC(C)(C)C)=O)O)C=C1 | C25H28FN3O5
reactant | water | O | H2O
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 4-[(2S,3S)-3-[(4-fluorobenzoyl)amino]-2-hydroxy-indan-5-yl]piperazine-1-carboxylate | 6.8 g, 79% | FC1=CC=C(C(=O)N[C@@H]2[C@H](CC3=CC=C(C=C23)N2CCN(CC2)C(=O)OC(C)(C)C)O)C=C1 | C25H30FN3O4
